US08664220B2
Step 3: 3-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 3-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester and 2-bromo-6-phenyl-pyridine. Additionally, palladium(II) acetate was used as the catalyst in place of tris(dibenzylideneacetone)dipalladium(0).

reactant | 3-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N)=O | C21H22N2O3
reactant | 2-bromo-6-phenyl-pyridine | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC=CC=C1)=O | C32H29N3O3
